US07557131B2
Preparation 44: 1-Benzyl-4-(3,5-difluorophenoxy)piperidine
The title compound was prepared from 1-benzyl-4-hydroxypiperidine and 3,5-difluorophenol, using the same method as that described for preparation 43. The crude compound was purified by column chromatography on silica gel, eluting with dichloromethane:methanol, 95:5, to afford the desired product in 63% yield. LRMS APCI m/z 304 [M+H]+

reactant | 1-benzyl-4-hydroxypiperidine | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | 3,5-difluorophenol | FC=1C=C(C=C(C1)F)O | C6H4F2O
product | 1-Benzyl-4-(3,5-difluorophenoxy)piperidine | C(C1=CC=CC=C1)N1CCC(CC1)OC1=CC(=CC(=C1)F)F | C18H19F2NO
